US08022222B2
A 250 mL round-bottomed flask was charged with 2-amino-4-methylthiazole (43.8 mL, 17.5 mmol), 4-(benzyloxy)-2-chloropyridine (4.23 g, 19.3 mmol), potassium phosphate (4.09 g, 19.3 mmol), and toluene (44 mL), and the reaction mixture was degassed with nitrogen. Tris(dibenzylideneacetone)-dipalladium (0) (0.401 g, 0.438 mmol) and 9,9-dimethyl-4,5-bis(diphenyl-phosphino)-xanthene (0.279 g, 0.482 mmol) were added, and the reaction mixture was degassed with nitrogen. The reaction mixture was warmed to 90° C., degassed water (15 mL) was added, and reaction mixture was stirred at 90° C. overnight. Water was added, and the reaction mixture was extracted with ethyl acetate. The organic layer was dried over magnesium sulfate and filtered through a small plug of silica gel, and the filtrate was concentrated down to 50 mL of ethyl acetate and filtered to afford 4-(benzyloxy)-N-(4-methylthiazol-2-yl)pyridin-2-amine (2.50 g, 47.5% yield) as a white solid. 1H NMR (CDCl3) δ 9.29 (bs, 1H), 8.15 (d, 1H), 7.39 (m, 4H), 7.35 (m, 1H), 6.53 (dd, 1H), 6.41 (d, 1H), 6.36 (d, 1H), 5.07 (s, 2H), 2.33 (s, 3H). Mass spectrum (esi) m/z=298 (M

reactant | 2-amino-4-methylthiazole | 17.5 mmol, 43.8 mL | NC=1SC=C(N1)C | C4H6N2S
reactant | 4-(benzyloxy)-2-chloropyridine | 19.3 mmol, 4.23 g | C(C1=CC=CC=C1)OC1=CC(=NC=C1)Cl | C12H10ClNO
reactant | potassium phosphate | 19.3 mmol, 4.09 g | P(=O)([O-])([O-])[O-].[K+].[K+].[K+]
reactant | toluene | 44 mL | C1(=CC=CC=C1)C | C7H8
catalyst | Tris(dibenzylideneacetone)-dipalladium (0) | 0.438 mmol, 0.401 g | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
catalyst | 9,9-dimethyl-4,5-bis(diphenyl-phosphino)-xanthene | 0.482 mmol, 0.279 g | CC1(C2=CC=CC(=C2OC=2C(=CC=CC12)P(C1=CC=CC=C1)C1=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1)C | C39H32OP2
solvent | Water | O | H2O
product | 4-(benzyloxy)-N-(4-methylthiazol-2-yl)pyridin-2-amine | 2.50 g, 47.5% yield | C(C1=CC=CC=C1)OC1=CC(=NC=C1)NC=1SC=C(N1)C | C16H15N3OS
